US08633319B2
1,1-Dimethylethyl (3S)-3-(azidomethyl)-3-fluoro-1-piperidinecarboxylate (36 g, 139 mmol) was dissolved in ethanol (500 ml) and added under nitrogen to Pd/C (2.6 g, 1.222 mmol). The mixture was hydrogenated at atmospheric pressure overnight. The suspension was filtered and the filtrate evaporated in vacuo to give 1,1-dimethylethyl (3R)-3-(aminomethyl)-3-fluoro-1-piperidinecarboxylate as a pale yellow oil (32.7 g). 1H NMR (CDCl3) 3.75-3.52 ppm (2H, 2×m, 2×CH), 3.30 ppm (1H, dd, CH), 3.20 ppm (1H, m, CH), 2.90-2.73 ppm (2H, m, CH2), 1.96-1.72 ppm (2H, 2×m, CH2), 1.70-1.58 ppm (1H, m, CH), 1.57-1.43 ppm (10H, m+s, CH+3×CH3), 1.32 ppm (2H, br.s, NH2).

reactant | 1,1-Dimethylethyl (3S)-3-(azidomethyl)-3-fluoro-1-piperidinecarboxylate | 139 mmol, 36 g | N(=[N+]=[N-])C[C@]1(CN(CCC1)C(=O)OC(C)(C)C)F | C11H19FN4O2
solvent | ethanol | 500 ml | C(C)O | C2H6O
catalyst | Pd/C | 1.222 mmol, 2.6 g | [Pd] | Pd
product | 1,1-dimethylethyl (3R)-3-(aminomethyl)-3-fluoro-1-piperidinecarboxylate | 32.7 g | NC[C@]1(CN(CCC1)C(=O)OC(C)(C)C)F | C11H21FN2O2
